*****************************************************************
* NXP BUK7Y59-60E
*
* Polarity N-Channel
* Ratings 60V/5.900000E-002OHMS/16.7888724862318A
*
* Date Created Tue Feb 05 02:56:53 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y59-60E DRAIN GATE SOURCE

LD DRAIN 5 3e-11
RLD2 DRAIN 5 0.075398223686155
RLD1 5 4 6e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 8e-10
RLS2 SOURCE 8 2.01061929829747
RLS1 8 7 0.00062

RDS 7 4 60000000 TC=-0.005

RS 6 7 0.00012

RD 3 4 0.01659193056312764 TC=0.00431251304047102,4.41836566368096E-05
RBD 9 4 0.00830645427922659 TC=0.00431251304047102,4.41836566368096E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 3.12621649580013e-10
RG 1 2 0.994873761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	375.94
+ -16	375.747
+ -10	375.118
+ -5	372.569
+ -4	368.203
+ -3	366.509
+ -2	301.129
+ -1	235.787
+ -0.5	190.358
+ -0.2	158.497
+ -0.1	157.872
+ 0	137.30876
+ 0.1	112.22289
+ 0.2	112.12075
+ 0.5	98.68434
+ 1	87.83804
+ 2	74.51246
+ 3	68.09338
+ 4	64.37725
+ 5	61.8696
+ 6	60.02489
+ 8	57.35579
+ 10	55.38735
+ 12	53.75696
+ 15	51.69142
+ 20	48.92609
+ 30	45.05267
+ 40	42.565
+ 48	41.12298



.MODEL MINT NMOS(Vto=3.6 Kp=9.5e+000 Nfs=1300000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=8.68586793568465e-14
+ N=1 M=0.56 VJ=0.5 Fc=0.5 Cjo=1.7971736e-10 Tt=1.04e-08)

.ENDS

